US06897224B2
0.674 ml of oxalyl chloride in 16.8 ml of dichloromethane is mixed at −78° C. with 1.15 ml of DMSO in 3.4 ml of dichloromethane. After 5 minutes, 2 g of 4-(4-chlorophenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentan-1-ol in 6.8 ml of dichloromethane is added in drops at −78° C. After 15 minutes, it is mixed with 4.7 ml of triethylamine and slowly heated to room temperature. It is washed with water and brine, dried with sodium sulfate and concentrated by evaporation in a vacuum. After chromatography on silica gel (hexane/ethyl acetate 98:2), 1.07 g of 4-(4-chlorophenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)-pentanal is obtained as a colorless oil. 300 mg thereof was heated with 194 mg of 5-amino-2-methylquinoline in 9 ml of glacial acetic acid for 4.5 hours to 130° C. After toluene is added, it is concentrated by evaporation in a vacuum. The residue is taken up in methanol and mixed at 0° C. with 153 mg of sodium borohydride. It is allowed to stir for 5 hours at room temperature, and water is added. The batch is concentrated by evaporation in a vacuum, extracted with ethyl acetate, washed with water and brine, dried with sodium sulfate and concentrated by evaporation in a vacuum. After chromatography on silica gel (hexane/ethyl acetate 100:0→85:15), 163 mg of the title compound is obtained as a yellow solid.

reactant | oxalyl chloride | 0.674 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 1.15 ml | CS(=O)C | C2H6OS
reactant | 4-(4-chlorophenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentan-1-ol | 2 g | ClC1=CC=C(C=C1)C(CC(CO)(C(F)(F)F)O)(C)C | C13H16ClF3O2
reactant | triethylamine | 4.7 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 16.8 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3.4 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 6.8 ml | ClCCl | CH2Cl2
product | 4-(4-chlorophenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)-pentanal | 1.07 g | ClC1=CC=C(C=C1)C(CC(C=O)(C(F)(F)F)O)(C)C | C13H14ClF3O2
